US07208506B2
(E)-2-Thiophen-2-yl-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide (5.17 g, 17.2 mmol) was stirred for 15 minutes in a 1:1 mixture of trifluoroacetic acid and dichloromethane (40 mL). The mixture was concentrated in vacuo to afford a solid that was washed with dichloromethane (10 mL) in heptane (100 mL). The resultant solid was collected by suction filtration and dried under vacuum at ambient temperature to afford (E)-2-thiophen-2-yl-ethenesulfonic acid amide (2.89 g, 89%).

reactant | (E)-2-Thiophen-2-yl-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 17.2 mmol, 5.17 g | CC(CC(C)(C)C)(C)NS(=O)(=O)\C=C\C=1SC=CC1 | C14H23NO2S2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (E)-2-thiophen-2-yl-ethenesulfonic acid amide | 2.89 g, 89% | S1C(=CC=C1)/C=C/S(=O)(=O)N | C6H7NO2S2
